US06096735
To dimethylsulfide (170 ml) is added dropwise with stirring aluminum chloride (23.6 g) under ice-cooling, and further thereto is added dropwise a solution of 5-methoxycarbonylmethyl-1-[4-(2-phenoxyacetylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (16.76 g) in dichloromethane (150 ml), and the mixture is stirred at room temperature for two hours. The reaction mixture is poured into a mixture of conc. hydrochloric acid and crashed ice, and the mixture is extracted with dichloromethane. The organic layer is washed with water, dried over magnesium sulfate, and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; dichloromethane:methanol=30:1) to give 5-carboxymethyl-1-[4-(2-phenoxyacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine (13.67 g) as white powder.

reactant | dimethylsulfide | 170 ml | CSC | C2H6S
reactant | aluminum chloride | 23.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-methoxycarbonylmethyl-1-[4-(2-phenoxyacetylamino)-benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 16.76 g | COC(=O)CC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(COC2=CC=CC=C2)=O)=O | C28H28N2O5
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 5-carboxymethyl-1-[4-(2-phenoxyacetylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzazepine | 13.67 g | C(=O)(O)CC1CCCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)NC(COC2=CC=CC=C2)=O)=O | C27H26N2O5
